US04393210
10.4 g of 2-(3-piperidinopropyl)-4-phenyl-1(2H)-isoquinolone was dissolved in 50 ml of acetone and 10 ml of a 47% aqueous solution of hydrobromic acid was added thereto and the mixture was warmed. After cooling, the precipitated crystals were filtered and recrystallized from a mixture of methanol and petroleum ether to obtain 11.6 g of 2-(3-piperidinopropyl)-4-phenyl-1(2H)-isoquinolone hydrobromide having a melting point of 300° C. as colorless needles.

reactant | 2-(3-piperidinopropyl)-4-phenyl-1(2H)-isoquinolone | 10.4 g | N1(CCCCC1)CCCN1C(C2=CC=CC=C2C(=C1)C1=CC=CC=C1)=O | C23H26N2O
reactant | hydrobromic acid | Br | BrH
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(3-piperidinopropyl)-4-phenyl-1(2H)-isoquinolone hydrobromide | 11.6 g | Br.N1(CCCCC1)CCCN1C(C2=CC=CC=C2C(=C1)C1=CC=CC=C1)=O | InChI=1S/C23H26N2O.BrH/c26-23-21-13-6-5-12-20(21)22(19-10-3-1-4-11-19)18-25(23)17-9-16-24-14-7-2-8-15-24;/h1,3-6,10-13,18H,2,7-9,14-17H2;1H
